US07544679B2
A solution of 70.0 mg (0.19 mmol) 2-hydroxy-2-((S)-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-ylcarbamoyl)-pentanoic acid and 14.9 mg (0.21 mmol) cyclopropanmethylamine in 3 ml tetrahydrofuran were cooled to 0° C. and 28.2 mg (0.21 mmol) 1-hydroxy-benzotriazole hydrate, 71 μl (0.42 mmol) diisopropylethylamine and 40.1 mg (0.21 mmol) N-(3-dimethylaminopropyl)-N′-ethyl-carbodiimide hydrochloride were added. Stirring was continued overnight. Removal of the solvent by distillation and chromatography on silicagel with heptane/ethylacetate (gradient 90:10 to 50:50) yielded 50.0 mg (62%) (R/S)-N-cyclopropylmethyl-2-hydroxy-N-((S)-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl)-2-propyl-malonamide: MS (m/e): 422.4 (M+H)+.

reactant | 2-hydroxy-2-((S)-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-ylcarbamoyl)-pentanoic acid | 0.19 mmol, 70.0 mg | OC(C(=O)O)(CCC)C(N[C@H]1C2=C(C3=C(NC1=O)C=CC=C3)C=CC=C2)=O | C20H20N2O5
reactant | cyclopropanmethylamine | 0.21 mmol, 14.9 mg | C1(CC1)CN | C4H9N
reactant | 1-hydroxy-benzotriazole hydrate | 0.21 mmol, 28.2 mg | O.ON1N=NC2=C1C=CC=C2
reactant | diisopropylethylamine | 0.42 mmol, 71 μl | C(C)(C)N(CC)C(C)C | C8H19N
reactant | N-(3-dimethylaminopropyl)-N′-ethyl-carbodiimide hydrochloride | 0.21 mmol, 40.1 mg | Cl.CN(CCCN=C=NCC)C
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | (R/S)-N-cyclopropylmethyl-2-hydroxy-N-((S)-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl)-2-propyl-malonamide | 50.0 mg, 62% | C1(CC1)CN(C(C(C(=O)N)(CCC)O)=O)[C@H]1C2=C(C3=C(NC1=O)C=CC=C3)C=CC=C2 | C24H27N3O4
